US06107291
3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide was synthesized from 3-Benzyloxymethyl-1-(4-methoxy-benzene sulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid in the same manner as the procedures used for the preparation of Acetic acid 2 -hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepin-3-ylmethyl ester: MS (M+H)+ =447, (M+NH4)+ =464.

reactant | 3-Benzyloxymethyl-1-(4-methoxy-benzene sulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)OCC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C22H25NO6S
reactant | Acetic acid 2 -hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepin-3-ylmethyl ester | ONC(=O)C1N(CC=CCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H22N2O7S
product | 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CC=CCC1COCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H26N2O6S
